US07592456B2
4-Fluorophenylmagnesium bromide (1.0M in tetrahydrofuran, 30 mL, 30 mmol) was added dropwise to a solution of 6-bromoquinoline (5.0 g, 24 mmol) in tetrahydrofuran (50 mL) at −5° C. The reaction was stirred, maintaining the temperature below 0° C. for 1.5 hours, then allowed to warm to room temperature for 70 hours. Further 4-fluorophenylmagnesium bromide was added and the reaction heated to reflux for 20 hours. The cooled reaction mixture was quenched with saturated ammonium chloride solution then poured into water and extracted with ethyl acetate (x2). The combined organic layers were washed with brine, dried over MgSO4 and evaporated. The residue was dissolved in dichloromethane (100 mL). Manganese (IV) oxide (2.22 g, 25.5 mmol) was added and the reaction stirred at room temperature for 1 hour. Further manganese(IV) oxide (4.51 g) was added and stirring continued for 3.5 hours. The reaction mixture was filtered through a plug of silica, washing with dichloromethane. The filtrate was concentrated in vacuo. The residue was stirred in methanol (100 mL) for 5 minutes then removed by filtration to give 6-bromo-2-(4-fluorophenyl)quinoline (4.84 g, 67%). 1H NMR (500 MHz, CDCl3) δ 8.17-8.11 (3H, m), 8.02-7.98 (2H, m), 7.85 (1H, d, J=8.6 Hz), 7.79 (1H, dd, J=2.1, 8.9 Hz), 7.21 (2H, t, J=8.6 Hz); m/z (ES+) 302, 304 [MH+].

reactant | 4-Fluorophenylmagnesium bromide | 30 mmol, 1.0M, 30 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | 6-bromoquinoline | 24 mmol, 5.0 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | Manganese (IV) oxide | 25.5 mmol, 2.22 g | [O-2].[Mn+4].[O-2]
catalyst | manganese(IV) oxide | 4.51 g | [O-2].[Mn+4].[O-2]
product | 6-bromo-2-(4-fluorophenyl)quinoline | 4.84 g, 67% | BrC=1C=C2C=CC(=NC2=CC1)C1=CC=C(C=C1)F | C15H9BrFN
